* C:\Users\mlste\Documents\ITBA\6 Cuatrimestre\TC\TC_TP2\Ej5\Simulacion\punto 5.asc
R1 V+ vcc+ 47k
R2 0 V+ 47k
R3 N001 V- 10k
R4 opamp_out V- 100k
R5 diode pre_diode 10k
C1 V+ Vin 1µ
C2 N001 0 1µ
C3 opamp_out pre_diode 1µ
R6 signal_out diode 1k
C4 signal_out 0 1n
D1 diode 0 1N4148
D2 0 diode 1N4148
R7 signal_out 0 500K
R8 Vin 0 1Meg
C5 vcc+ 0 1µF
V2 vcc+ 0 9
V1 Vin 0 SINE(0 0.3 {f}) AC 2
XU1 V+ V- vcc+ 0 opamp_out LM741
R9 0 N001 1 meg
.model D D
.lib C:\Users\mlste\Documents\LTspiceXVII\lib\cmp\standard.dio
.inc "opamp varios\LM741.MOD"
.inc "1N4148\1n4148.sub"
.ac dec 20 10 40k
;.wave "audio\guitarsampleoutput.wav" 16 44100 signal_out
.param f=50k
.param T {1/f}
.backanno
.end
